US06242600B1
(S)-[3-Methoxycarbonylmethyl-2-oxo-4-[4-oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butyryl]piperazin-1-yl]acetic Acid
To a suspension of (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester (0.45 g) and 4-oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butanoic acid (0.46 g) produced in Reference Example 4 in acetonitrile (20 ml) and dimethylformamide (2 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.36 g) and the suspension was stirred for 15 hours at room temperature. The reaction mixture was concentrated under reduced pressure. To the solution was added saturated brine and the solution was extracted with ethyl acetate. The extract was dried over Na2SO4 and was concentrated under reduced pressure. To the produced ester derivative was added trifluoroacetic acid (10 ml) and the mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by CHP-20 column chromatography (H2O→30% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound (0.45 g) as a white amorphous powdery product.

reactant | (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester | 0.45 g | C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C13H22N2O5
reactant | 4-oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butanoic acid | 0.46 g | O=C(CCC(=O)O)N1CCN(CC1)C1=NC=CC=N1 | C12H16N4O3
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.36 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (S)-[3-Methoxycarbonylmethyl-2-oxo-4-[4-oxo-4-(4-pyrimidin-2-ylpiperazin-1-yl)butyryl]piperazin-1-yl]acetic Acid | 0.45 g | COC(=O)C[C@H]1C(N(CCN1C(CCC(N1CCN(CC1)C1=NC=CC=N1)=O)=O)CC(=O)O)=O | C21H28N6O7
